US08859777B2
This material was prepared from the reaction of tert-Butyl 4-hydroxy-4-(3-methoxyphenyl)piperidine-1-carboxylate with diethylaminosulfur trifluoride and deprotection of the crude product using methanolic hydrogen chloride as described in Step 2 of Example 1 to afford 4-(3-methoxyphenyl)-4-fluoropiperidine hydrochloride in 76% yield.

reactant | tert-Butyl 4-hydroxy-4-(3-methoxyphenyl)piperidine-1-carboxylate | OC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)OC | C17H25NO4
reactant | diethylaminosulfur trifluoride | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | hydrogen chloride | Cl | ClH
product | 4-(3-methoxyphenyl)-4-fluoropiperidine hydrochloride | 76% yield | Cl.COC=1C=C(C=CC1)C1(CCNCC1)F | InChI=1S/C12H16FNO.ClH/c1-15-11-4-2-3-10(9-11)12(13)5-7-14-8-6-12;/h2-4,9,14H,5-8H2,1H3;1H
